US08293768B2
To a solution of 4-fluorobenzylamine (2.00 mL, 17.6 mmol) and dimethoxyacetaldehyde (60% solution in water, 3.00 mL, 19.9 mmol) in tetrahydrofuran (100 mL) was added sodium triacetoxyborohydride (5.90 g, 26.4 mmol) at ambient temperature. The resulting reaction mixture was stirred at ambient temperature for 5 hours, followed by the addition of saturated sodium bicarbonate (50 mL) and extraction with ethyl acetate (3×100 mL). The combined organic solution was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated and the residue was purified by column chromatography to afford N-(4-fluorobenzyl)-2,2-dimethoxyethanamine (2.70 g, 71%): 1H NMR (300 MHz, CDCl3) δ 7.24-7.19 (m, 2H), 6.97-6.89 (m, 2H), 4.43-4.39 (m, 1H), 3.70 (s, 2H), 3.30 (s, 6H), 2.67 (dd, J=5.4, 1.5 Hz, 2H); MS (ES+) m/z 214.3 (M+1).

reactant | 4-fluorobenzylamine | 17.6 mmol, 2.00 mL | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | dimethoxyacetaldehyde | 19.9 mmol, 3.00 mL | COC(C=O)OC | C4H8O3
reactant | sodium triacetoxyborohydride | 26.4 mmol, 5.90 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-(4-fluorobenzyl)-2,2-dimethoxyethanamine | 2.70 g, 71% | FC1=CC=C(CNCC(OC)OC)C=C1 | C11H16FNO2
